US06797718B2
The method described in Example 80, Part E was used with the following exceptions. A solution of phenol (2.11 g, 22.4 mmol) in diglyme (5 mL) was added to the sodium hydride dispersion (0.87 g, 22 mmol) in diglyme (10 mL). A solution of (2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl}amine (4.6 g, 15 mmol) in diglyme (25 mL) was added, and the addition flask was rinsed with additional diglyme (2×5 mL), which was added to the reaction flask. The resulting amber solution was heated at 110° C. for 3.25 hours and then allowed to cool to room temperature. The volatiles were removed under reduced pressure, and the residue was dissolved in ethyl acetate (100 mL). The solution was washed with saturated aqueous ammonium chloride (1×50 mL), 1 N potassium hydroxide (2×50 mL), and brine (2×50 mL), and then dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide an oil. The oil was dried for three days under high vacuum at room temperature to provide 4.7 g of (2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl}amine as an oil.

reactant | phenol | 22.4 mmol, 2.11 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | [H-].[Na+]
reactant | (2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl}amine | 15 mmol, 4.6 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCOCCCC=1SC=CN1)C)C | C15H19ClN4O3S
solvent | diglyme | 5 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 10 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 25 mL | COCCOCCOC | C6H14O3
product | (2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)-{2-[3-(1,3-thiazol-2-yl)propoxy]ethyl}amine | 4.7 g | CC1=NC(=C(C(=C1C)NCCOCCCC=1SC=CN1)[N+](=O)[O-])OC1=CC=CC=C1 | C21H24N4O4S
